US08466193B2
To a solution of 1-(2-phenoxyethyl)-1H-pyrrole-2-carbaldehyde (0.68 g, 3.2 mmol) triethyl phosphonoacetate (0.76 mL, 3.8 mmol) in THF (20 mL) was added NaH (91 mg, 3.8 mmol. 60% wt.). The mixture was stirred for 2 hr at room temperature then diluted with ethyl acetate (100 mL) and washed with water (100 mL). The organic layer was dried (MgSO4), filtered and then concentrated. The crude ethyl ester was stirred in MeOH (20 mL) and NaOH (0.9 g, 22 mmol/dissolved in 10 mL H2O) was added. After stirring at room temperature for 24 hr, the solution was concentrated and then diluted with H20 (50 mL) and extracted with ether (2×100 mL). The aqueous layer was acidified (1N HCl) to pH=2-3 and then extracted with ethyl acetate (100 mL). The organic layer was dried (MgSO4), filtered and then concentrated to provide 0.47 g (58%) of (E)-3-(1-(2-phenoxyethyl)-1H-pyrrol-2-yl)acrylic acid as a light yellow solid.

reactant | 1-(2-phenoxyethyl)-1H-pyrrole-2-carbaldehyde | 3.2 mmol, 0.76 mL, 0.68 g | O(C1=CC=CC=C1)CCN1C(=CC=C1)C=O | C13H13NO2
reactant | NaH | 3.8 mmol, 91 mg | [H-].[Na+]
reactant | NaOH | 22 mmol, 10 mL, 0.9 g | [OH-].[Na+]
reactant | THF | 20 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (E)-3-(1-(2-phenoxyethyl)-1H-pyrrol-2-yl)acrylic acid | 0.47 g, 58% | O(C1=CC=CC=C1)CCN1C(=CC=C1)/C=C/C(=O)O | C15H15NO3
